US08222219B2
A solution of 2,2,6,6-tetramethylpiperidine (4.13 ml) in tetrahydrofuran (40 ml) was cooled to −78° C. under argon atmosphere, and added dropwise thereto was n-butyl lithium (2.44 M hexane solution, 10.0 ml). The mixture was stirred at the same temperature for 30 minutes, and added dropwise thereto at −78° C. was a solution of 1-bromo-4-fluoronaphthalene (5.0 g) in tetrahydrofuran (20 ml). The mixture was stirred at the same temperature for 1 hour, and added dropwise thereto at −78° C. was N,N-dimethylformamide (5.16 ml). The mixture was stirred at the same temperature for 1 hour, and added thereto was a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was crystallized from diisopropyl ether and hexane to give 4-bromo-1-fluoro-2-naphthaldehyde (4.43 g) as pale yellow crystals. APCI-Mass m/Z 267/269 (M+NH4). (2) The above 4-bromo-1-fluoro-2-naphthaldehyde and 2-(2-pyridyl)thiophene were treated in a manner similar to Reference Example 120 to give the desired 4-bromo-1-fluoro-2-(5-(2-pyridyl)-2-thienylmethyl)naphthalene as colorless powder. APCI-Mass m/Z 398/400 (M+H).

reactant | 4-bromo-1-fluoro-2-naphthaldehyde | BrC1=CC(=C(C2=CC=CC=C12)F)C=O | C11H6BrFO
reactant | 2-(2-pyridyl)thiophene | N1=C(C=CC=C1)C=1SC=CC1 | C9H7NS
product | 4-bromo-1-fluoro-2-(5-(2-pyridyl)-2-thienylmethyl)naphthalene | BrC1=CC(=C(C2=CC=CC=C12)F)CC=1SC(=CC1)C1=NC=CC=C1 | C20H13BrFNS
